US05227457
2'-acetyl-4,4"-dibromoterphenyl
To 3.8 (0.01 mole) 4,4"-dibromoterphenyl in 200 ml nitrobenzene is added 0.86 g (0.011 mole) acetyl chloride and 1.46 g (0.011 mole) aluminum trichloride. The mixture is heated to 80° C. under inert atmosphere for three hours. The mixture is cooled to room temperature and washed with 1 m HCl. The organic layer of 2'-acetyl-4,4"-dibromoterphenyl is separated and the solids filtered and washed with several portions of ethanol, and dried.

reactant | 4,4"-dibromoterphenyl | BrC1=CC=C(C=C1)C=1C(=CC=CC1)C1=CC=C(C=C1)Br | C18H12Br2
reactant | acetyl chloride | 0.011 mole, 0.86 g | C(C)(=O)Cl | C2H3ClO
reactant | aluminum trichloride | 0.011 mole, 1.46 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | nitrobenzene | 200 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 2'-acetyl-4,4"-dibromoterphenyl | C(C)(=O)C1(C(=CC=CC1)C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br | C20H16Br2O
